US06756378B2
To a stirred solution of tert-butyl 3-methyl-4-(N′-phenylureido)phenylacetate (1.12 g, 3.29 mmol) in CH2Cl2 (10 ml) was added TFA (10 ml) and the reaction mixture was stirred at room temperature for 4 hr. The reaction mixture was concentrated to a small volume and poured into ice-H2O. The resulting precipitate was collected under a reduced pressure and the crude solid was recrystallized from MeOH—CHCl3 to give 3-methyl-4(N′-phenylureido)phenylacetic acid (680 mg, 73%) as white needles. 1H-NMR (DMSO-d6) δ2.22 (s, 3 H), 3.46 (s, 2 H), 6.93-7.05 (m, 3 H), 7.25-7.29 (m, 2 H), 7.43-7.46 (m, 2 H), 7.72-7.74 (m, 1 H), 7.90 (s, 1 H), 8.98 (s, 1 H), 12.26 (br s, 1 H); Anal. Calcd. for C16H16N2O3: C, 67.59; H, 5.67; N, 9.85. Found: C, 67.47; H, 5.68; N, 9.73.

reactant | tert-butyl 3-methyl-4-(N′-phenylureido)phenylacetate | 3.29 mmol, 1.12 g | CC=1C=C(C=CC1NC(=O)NC1=CC=CC=C1)CC(=O)OC(C)(C)C | C20H24N2O3
reactant | TFA | 10 ml | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | CH2Cl2 | 10 ml | C(Cl)Cl | CH2Cl2
product | 3-methyl-4(N′-phenylureido)phenylacetic acid | 680 mg, 73% | CC=1C=C(C=CC1NC(=O)NC1=CC=CC=C1)CC(=O)O | C16H16N2O3
